US08530468B2
5-(8-(2-morpholinoethylamino)isoquinolin-3-ylamino)pyrazine-2-carbonitrile (AA-020)
The title compound was prepared using methods analogous to those described in Synthesis 5-1, replacing 3,8-dichloroisoquinoline with 5-(8-bromoisoquinolin-3-ylamino)pyrazine-2-carbonitrile and replacing (R)-5-amino-3-(pyrrolidin-3-yloxy)pyrazine-2-carbonitrile with N-(2-aminoethyl)morpholine, and conducting the reaction at 140° C.

reactant | 5-(8-bromoisoquinolin-3-ylamino)pyrazine-2-carbonitrile | BrC=1C=CC=C2C=C(N=CC12)NC=1N=CC(=NC1)C#N | C14H8BrN5
reactant | N-(2-aminoethyl)morpholine | NCCN1CCOCC1 | C6H14N2O
product | 5-(8-(2-morpholinoethylamino)isoquinolin-3-ylamino)pyrazine-2-carbonitrile | O1CCN(CC1)CCNC=1C=CC=C2C=C(N=CC12)NC=1N=CC(=NC1)C#N | C20H21N7O
